US07491821B2
To a solution of 6-chloro-2-pyridinylamine (406 mg, 3.16 mmol) and piperazine (381 mg, 4.42 mmol) in m-xylene (10 ml), were added sodium tert-butoxide (425 mg, 4.42 mmol) and bis-(tri-o-tolylphosphine)palladium(II) dichloride (124 mg, 0.158 mmol). The mixture was heated at reflux under N2 for 24 h. The reaction was cooled down and tetrahydrofuran (THF, 10 ml) added, and the mixture was filtered on a celite pad. The filtrate was evaporated and purified via flash chromatography (CH2Cl2/MeOH/NH4OH) affording 30 mg of 2-amino-6-(piperazin-1-yl)pyridine (intermediate “Ia”) as a tan solid (5% yield). H-NMR (CD3OD): 2.95 (m, 4H), 3.47 (m, 4H), 5.93 (m, 1H), 6.01 (m, 1H), 7.24 (m, 1H). M+=179.

reactant | 6-chloro-2-pyridinylamine | 3.16 mmol, 406 mg | ClC1=CC=CC(=N1)N | C5H5ClN2
reactant | piperazine | 4.42 mmol, 381 mg | N1CCNCC1 | C4H10N2
reactant | sodium tert-butoxide | 4.42 mmol, 425 mg | CC(C)([O-])C.[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | m-xylene | 10 ml | C1(=CC(=CC=C1)C)C | C8H10
catalyst | bis-(tri-o-tolylphosphine)palladium(II) dichloride | 0.158 mmol, 124 mg | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 2-amino-6-(piperazin-1-yl)pyridine | 30 mg, 5% yield | NC1=NC(=CC=C1)N1CCNCC1 | C9H14N4
